* C:\projects\induction_furnace\EE\spice\res_driver_tran.asc
* Generated by LTspice 24.1.4 for Windows.
L6 N001 0 {Lp}
L7 N002 0 {Ls}
R3 vin_tran N001 {ESR_pri}
V3 vin_tran 0 PULSE({-Vin} {Vin} {1/(4*Fsw)} {t_slew} {t_slew} {1/(2*Fsw)-t_slew} {1/Fsw}) AC 1
Rl vr vc {R_load}
L9 N003 vr {L_coil}
C1 vc N004 {Cr}
R6 N004 0 {Cr_ESR}
R1 N003 N002 {ESR_sec}
R2 vc N004 1Meg
K2 L6 L7 0.99
.ic I(L6)=0
.ic I(L7)=0
.inc driver_params.txt
;param Fsw=F_res_calc
.param Fsw=52.5k
;step param Fsw 52k 53k 200
.step param R_load 4m 40m 2m
.tran 0 100m 99.9m
.backanno
.end
